US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (5.20 g, 15.4 mmol) obtained in the same manner as in the method described in WO03/010140 and 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine (4.11 g, 16.2 mmol) in 1,2-dimethoxyethane (20 ml) and water (10 ml) were added sodium hydrogen carbonate (4.10 g, 48.6 μmmol) and tetrakis(triphenylphosphine)palladium (1.87 g, 1.62 mmol) and the mixture was heated under reflux for 12 hr. The mixture was allowed to cool to room temperature, and water was added to the reaction mixture. The mixture was extracted with ethyl acetate and the organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1) to give methyl 2-(2-amino-4-chlorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate (6.17 g, yield 100%).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 15.4 mmol, 5.20 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | 5-chloro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine | 16.2 mmol, 4.11 g | ClC=1C=CC(=C(C1)N)B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
reactant | sodium hydrogen carbonate | 4.10 g | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 1.62 mmol, 1.87 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2-amino-4-chlorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 6.17 g, yield 100% | NC1=C(C=CC(=C1)Cl)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C22H23ClN2O2
